US04148643
α-(2-Hydroxy-5-sulfophenylazo)acetoacetanilide
2-Aminophenol-4-sulfonic acid (18 g) was dissolved in aqueous sodium hydroxide (5 g in 200 ml of water). After the addition of sodium nitrite (7 g), the solution was cooled to 10° C. and added to a mixture of concentrated hydrochloric acid (25 ml) and cracked ice (300 g). The diazonium solution was stirred at 0° C. for 15 minutes and then added slowly to a slurry of acetoacetanilide (17 g), potassium carbonate (30 g), pyridine (200 ml) and ice. When the addition was complete, the reaction mixture was stirred at 10° to 20° C. for 1 hour and then acidified with hydrochloric acid. The product was filtered off and dried. Yield: 23 g.

reactant | 2-Aminophenol-4-sulfonic acid | 18 g | C1=CC(=C(C=C1S(=O)(=O)O)N)O | C6H7NO4S
reactant | sodium nitrite | 7 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | acetoacetanilide | 17 g | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | sodium hydroxide | 200 ml, 5 g | [OH-].[Na+]
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | α-(2-Hydroxy-5-sulfophenylazo)acetoacetanilide | OC1=C(C=C(C=C1)S(=O)(=O)O)N=NC(C(=O)NC1=CC=CC=C1)C(=O)C | C16H15N3O6S
